US05464872
N-[2-(2-METHOXY-1-NAPHTHYL)ETHYL]TRIFLUOROACETAMIDE
0.338 g of 2-(2-methoxy-1-naphthyl)ethylamine is placed in a 25-cm3 two-necked flask. It is diluted with 5 cm3 of anhydrous dichloromethane (3 equivalents). After the flask has been placed under argon, 0.15 cm3 of pyridine stored over potassium hydroxide (1.1 equivalents) is added, the flask is chilled and 0.24 cm3 of trifluoroacetic anhydride (1 equivalent) is added slowly. The reaction lasts 30 minutes at room temperature. Treatment after the reaction yields 0.220 g of viscous yellow liquid which crystallizes at room temperature. It is recrystallized by dissolution in the heated state in a hexane/ethyl acetate mixture.

reactant | 2-(2-methoxy-1-naphthyl)ethylamine | 0.338 g | COC1=C(C2=CC=CC=C2C=C1)CCN | C13H15NO
reactant | dichloromethane | 5 cm3, 3 equivalents | ClCCl | CH2Cl2
reactant | potassium hydroxide | 1.1 equivalents | [OH-].[K+]
reactant | trifluoroacetic anhydride | 0.24 cm3, 1 equivalent | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 0.15 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[2-(2-METHOXY-1-NAPHTHYL)ETHYL]TRIFLUOROACETAMIDE | 0.220 g | COC1=C(C2=CC=CC=C2C=C1)CCNC(C(F)(F)F)=O | C15H14F3NO2
